US04540699
To a stirred suspension of 50% sodium hydride in oil (13.89 g) in dimethoxyethane (100 ml) at -2° C., was added dropwise over 90 minutes, a mixture of ethyl β-(N-n-butyl-2-oxo-4-pyridyl)propionate (58.19 g) and ethyl formate (25.73 g), the reaction temperature being maintained below 5° C. The reaction mixture was then allowed to warm to room temperature overnight, poured on to ice and extracted successively into petroleum ether (40°-60°) (150 ml) and diethyl ether (3×100 ml). The combined organic extracts were washed with water (40 ml); and the aqueous layer and aqueous washings were taken to pH 5 with glacial acetic acid. A brown oil came out of solution which was extracted into ethyl acetate (3×150 ml). The combined ethyl acetate extracts were washed with water (2×30 ml), dried over MgSO4 and evaporated under reduced pressure. The residue was washed with petroleum ether (40°-60°) and dried in vacuo to afford as a pale brown solid, ethyl α-formyl-β-(N-n-butyl-2-oxo-4-pyridyl)propionate (54.84 g).

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl β-(N-n-butyl-2-oxo-4-pyridyl)propionate | 58.19 g | C(CCC)N1C(C=C(C=C1)CCC(=O)OCC)=O | C14H21NO3
reactant | ethyl formate | 25.73 g | C(=O)OCC | C3H6O2
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
product | ethyl α-formyl-β-(N-n-butyl-2-oxo-4-pyridyl)propionate | 54.84 g | C(=O)C(C(=O)OCC)CC1=CC(N(C=C1)CCCC)=O | C15H21NO4
